* Full AFE, one channel: GIC filter -> active detector -> comparator.
* Transient (.tran) -- nonlinear (diodes + comparator), reproduces the paper's
* V_in / V_filt / V_+ (envelope) / V_out waveforms.
*
* Node map:  in -> Vin   vfilt -> GIC out   da/dk -> detector diode nodes
*            vdet -> V_+ (rectified+smoothed envelope)   vout -> comparator
*
* Input is a PWL file written by scripts/run_transient.py (speech clip, biased
* at 0.9 V). VREF is the comparator threshold, tuned to the envelope's range
* (real hardware: R7/R8 divider -- must be set to the V_+ swing, not 0.92 V).

.include ../models/OPA379.LIB
* BAT54 Schottky as a clean 2-terminal .model (the vendor subckt uses a
* parametric 'mfg=Diotec' that ngspice rejects). Standard BAT54 params.
.model DBAT54 D(Is=2.2n Rs=2 N=1.03 Cjo=10p M=0.4 Vj=0.4 Bv=30 Ibv=10u Eg=0.69 Xti=2)
* NOTE: the LPV7215 PSpice model uses if()/switch syntax ngspice can't parse,
* so the comparator is behavioral here (steep tanh: 0->1.8 V at V_+ = VREF).
* Faithful enough for the waveform demo; real comparator non-idealities
* (offset/delay/hysteresis) can be checked later in LTspice/PSpice.

.param RA=12.05k CVAL=9.38n R1v=53.3k R2v=100k
.param VREF=0.9004

V1   mid  0 DC 0.9
Vpos vpos 0 DC 1.8
Vref vref 0 DC {VREF}
Vin  in   0 PWL file="sim/input.pwl"

* --- GIC bandpass (designed channel) ---
R1   in   np   {R1v}
C1   mid  np   {CVAL}
RA1  c2p  np   {RA}
XU1  np   nn   vpos 0 vfilt OPA379
RA2  nn   vfilt {RA}
C2   c2p  nn   {CVAL}
XU2  u2p  nn   vpos 0 c2p   OPA379
R2   u2p  vfilt {R2v}
R3   mid  u2p  {R2v}

* --- active detector: precision rectifier + C3 smoothing ---
R4   vfilt da   10k
XU3  u3p  da    vpos 0 dk   OPA379
R6   mid  u3p   8.25k
R5   da   vdet  47k
D1   da   dk    DBAT54
D2   dk   vdet  DBAT54
C3   vdet 0     100n

* --- comparator (behavioral): V_out ~ 1.8 V when V_+ > VREF, else ~0 ---
Bcomp vout 0 V = 0.9 + 0.9*tanh(2e4*(v(vdet) - v(vref)))

.control
  tran 2u 40m
  wrdata sim/tran.csv v(in) v(vfilt) v(vdet) v(vout)
  * measure the envelope range on the settled portion (skip first 8 ms)
  meas tran vdmin MIN v(vdet) from=8m to=40m
  meas tran vdmax MAX v(vdet) from=8m to=40m
  print vdmin vdmax
.endc
.end
